US06057350
(+)-2-Oxo-4-(3,4,5-trifluorophenyl)-oxazolidine-3-carboxylic acid [2-(4-cyano-4-phenyl-cyclohexylamino)-ethyl]amide
To a solution of 1-[(2-amino-ethyl)-amino]-4-cyano-4-phenylhexane (25 mg, 0.103 mmol) in 10 mL of THF, 4-(3,4,5-trifluorophenyl)-2-oxo-oxazolidine-3-carboxylic acid-4-nitro-phenyl ester (30 mg, 0.079 mmol) was added and the resulting yellow solution was stirred under argon atmosphere for 2 h at room temperature. The solvent was removed in vacuo and the residue was purified by column chromatography over silica gel with 1:1 hexane/EtOAc followed by MeOH:EtOAc=1:9 (Rf =0.60, MeOH:EtOAc=1:3) to obtain the title compound. The compound was dissolved in CH2Cl2 (3 mL) and was treated with 1N HCl in ether (1 mL). The solvent was removed in vacuo to give the corresponding hydrochloride salt as a pale yellow solid. M. P. 130-134° C.; [α]D =+43.5, (c=0.25, MeOH); Anal. Calcd. For C25H26N4O3F3Cl 1.10 C3H6O: C, 57.92; H, 5.60; N, 8.55. Found: C, 58.33; H, 5.90; N, 8.52.

reactant | 1-[(2-amino-ethyl)-amino]-4-cyano-4-phenylhexane | 0.103 mmol, 25 mg | NCCNCCCC(CC)(C1=CC=CC=C1)C#N | C15H23N3
reactant | 4-(3,4,5-trifluorophenyl)-2-oxo-oxazolidine-3-carboxylic acid-4-nitro-phenyl ester | 0.079 mmol, 30 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(OCC1C1=CC(=C(C(=C1)F)F)F)=O | C16H9F3N2O6
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (+)-2-Oxo-4-(3,4,5-trifluorophenyl)-oxazolidine-3-carboxylic acid [2-(4-cyano-4-phenyl-cyclohexylamino)-ethyl]amide | C(#N)C1(CCC(CC1)NCCNC(=O)N1C(OCC1C1=CC(=C(C(=C1)F)F)F)=O)C1=CC=CC=C1 | C25H25F3N4O3
